### PR TITLE
[Merged by Bors] - chore(Multilinear/Basis): golf, generalize

### PR DESCRIPTION
**Pull request by urkud**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean [hunk 1]
```diff
@@ -11,50 +11,27 @@ import Mathlib.LinearAlgebra.Multilinear.Curry
...
+    (h : ∀ v : (i : ι) → ιM i, (f fun i ↦ e i (v i)) = g fun i ↦ e i (v i)) : f = g := by
   cases nonempty_fintype ι
-  exact
-    (domDomCongr_eq_iff (Fintype.equivFin ι) f g).mp
-      (Basis.ext_multilinear_fin (fun _ => e) fun i => h (i ∘ _))
+  classical
+  ext m
+  rcases Function.Surjective.piMap (fun i ↦  (e i).repr.symm.surjective) m with ⟨x, rfl⟩
+  unfold Pi.map
+  simp only [(e _).repr_symm_apply, Finsupp.linearCombination_apply, Finsupp.sum,
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Multilinear/Basis.lean:33]: Is un-squeezing slower? If not, can you do so, please?

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean [hunk 2]
```diff
@@ -11,50 +11,27 @@ import Mathlib.LinearAlgebra.Multilinear.Curry
 
 This file proves lemmas about the action of multilinear maps on basis vectors.
 
-## TODO
```
Comment (grunweg) [inline Mathlib/LinearAlgebra/Multilinear/Basis.lean:14]: I didn't verify closely that this if fixed: flagging this for other reviewers.

**Review by grunweg — COMMENTED** [review]
Needs a shake, otherwise looks reasonable. Thanks!
maintainer delegate

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean [hunk 3]
```diff
@@ -11,50 +11,27 @@ import Mathlib.LinearAlgebra.Multilinear.Curry
...
+theorem Basis.ext_multilinear [Finite ι] {f g : MultilinearMap R M N} {ιM : ι → Type*}
+    (e : ∀ i, Basis (ιM i) R (M i))
+    (h : ∀ v : (i : ι) → ιM i, (f fun i ↦ e i (v i)) = g fun i ↦ e i (v i)) : f = g := by
   cases nonempty_fintype ι
-  exact
-    (domDomCongr_eq_iff (Fintype.equivFin ι) f g).mp
-      (Basis.ext_multilinear_fin (fun _ => e) fun i => h (i ∘ _))
+  classical
+  ext m
+  rcases Function.Surjective.piMap (fun i ↦  (e i).repr.symm.surjective) m with ⟨x, rfl⟩
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Multilinear/Basis.lean:31]:
```suggestion
  rcases Function.Surjective.piMap (fun i ↦ (e i).repr.symm.surjective) m with ⟨x, rfl⟩
```

**Comment by eric-wieser** [comment]
In theory you could prove this via `MultilinearMap.dfinsupp_ext` (after first transporting to `Finsupp`).

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/LinearAlgebra/Multilinear/Basis.lean:14]: I think that the current proof isn't worse than going through tensor products (and avoids importing tensor products).

File: Mathlib/LinearAlgebra/Multilinear/Basis.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/LinearAlgebra/Multilinear/Basis.lean]: None of these lemmas are in the default `simp` set, so I'm replacing with `simp_rw`.

**Comment by urkud** [comment]
bors merge
